US05710130
A) Preparation of 4-methyl-2-phthalimidopyridine
To a stirring solution of 4-methyl-2-aminopyridine (50 g, 460 mmol) in acetic acid (1 L) was added phthalic anhydride (68 g, 460 mmol) and the reaction was heated to reflux. After 12 h, acetic anhydride (43 mL, 460 mmol) was added and the solution continued to stir at reflux for an additional 48 h. The solvent was then removed in vacuo and the solid residue was suspended in toluene and concentrated in vacuo twice. The solid was then suspended in ethyl acetate with vigorous stirring and filtered. After repeating this ethyl acetate washing procedure the solid was dried overnight in vacuo to give 46.6 g (42%) of a white solid.

reactant | 4-methyl-2-aminopyridine | 460 mmol, 50 g | CC1=CC(=NC=C1)N | C6H8N2
reactant | phthalic anhydride | 460 mmol, 68 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | acetic anhydride | 460 mmol, 43 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 1 L | C(C)(=O)O | C2H4O2
product | 4-methyl-2-phthalimidopyridine | 46.6 g, 42% | CC1=CC(=NC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H10N2O2
